US07348456B2
Step A: N-Trimethylsilylethoxymethyl-4-pyridone
To a solution of 4-hydroxypyridine (3.0 g, 32 mmol) and trimethylsilylethoxymethyl chloride (5.5 mL, 32 mmol) in 30 mL of acetonitrile was added cesium carbonate (11 g, 34 mmol). After stirring at room temperature overnight, the reaction mixture was partitioned between brine (100 mL) and ethyl acetate (100 mL). The organic layer was separated and aqueous layer extracted with ethyl acetate (3×100 mL). The combined extracts were dried over anhydrous sodium sulfate, filtered, and concentrated to dryness to give the title compound contaminated with some O-alkylated product. 1H NMR (500 MHz, CD3OD): δ 7.92 (d, 2H), 6.49 (d, 2H), 5.28 (s, 2H), 3.62 (t, 2H), 0.96 (t, 2H), 0.024 (s, 9H).

reactant | 4-hydroxypyridine | 32 mmol, 3.0 g | OC1=CC=NC=C1 | C5H5NO
reactant | trimethylsilylethoxymethyl chloride | 32 mmol, 5.5 mL | C[Si](C)(C)CCOCCl | C6H15ClOSi
reactant | cesium carbonate | 34 mmol, 11 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | N-Trimethylsilylethoxymethyl-4-pyridone | C[Si](C)(C)CCOCN1C=CC(C=C1)=O | C11H19NO2Si
